US08114868B2
Step 5: 3-{(S)-1-[4-(1-Cyclopropyl-2-oxo-1,2-dihydro-pyridin-4-yl)-2-methyl-phenyl]-ethyl}-(S)-6-(2-hydroxy-2-methyl-propyl)-6-phenyl-[1,3]oxazinan-2-one
2 M aqueous Na2CO3 solution (0.41 mL) was added to a mixture of 4-bromo-1-cyclopropyl-1H-pyridin-2-one (0.11 g) and (S)-6-(2-hydroxy-2-methyl-propyl)-3-{(S)-1-[2-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-ethyl}-6-phenyl -[1,3]oxazinan-2-one (0.20 g) in N,N-dimethylformamide (2 mL). The resulting mixture was sparged with argon for 10 min prior to the addition of [1,1′-bis(diphenylphosphino)-ferrocene]dichloro-palladium(II) dichloromethane complex (33 mg). The mixture was heated to 100° C. and stirred at this temperature overnight. After cooling the mixture to ambient temperature, water was added and the resulting mixture was extracted with ethyl acetate. The combined organic extracts were washed with water and brine and dried (MgSO4). The solvent was evaporated and the residue was purified by HPLC on reversed phase (methanol/water/NH4OH) to afford the title compound. Yield: 0.13 g (64% of theory); LC-MS (Method 5): tR=3.43 min; Mass spectrum (ESI+): m/z=501 [M+H]+.

reactant | Na2CO3 | 2 M, 0.41 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-bromo-1-cyclopropyl-1H-pyridin-2-one | 0.11 g | BrC1=CC(N(C=C1)C1CC1)=O | C8H8BrNO
reactant | (S)-6-(2-hydroxy-2-methyl-propyl)-3-{(S)-1-[2-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-ethyl}-6-phenyl -[1,3]oxazinan-2-one | 0.20 g | OC(C[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)C)C1=CC=CC=C1)(C)C | C29H40BNO5
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 3-{(S)-1-[4-(1-Cyclopropyl-2-oxo-1,2-dihydro-pyridin-4-yl)-2-methyl-phenyl]-ethyl}-(S)-6-(2-hydroxy-2-methyl-propyl)-6-phenyl-[1,3]oxazinan-2-one | C1(CC1)N1C(C=C(C=C1)C1=CC(=C(C=C1)[C@H](C)N1C(O[C@](CC1)(C1=CC=CC=C1)CC(C)(C)O)=O)C)=O | C31H36N2O4
